US05914339
5-{(2R)-2-[[(2R)-2-(tert-Butyl-dimethyl-siloxy)-2-(3-chloro-phenyl)-ethyl]-(2,2,2-trichloro-ethoxycarbonyl)-amino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid diethyl ester
To a -78° C. solution of 3.75 g (5.47 mmol) (R,R)-5-{2-[[2-(3-chloro-phenyl)-2-hydroxy-ethyl]-(2,2,2-trichloro-ethoxycarbonyl)-amino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid diethyl ester and 60 mL of CH2Cl2 was added 1.27 mL (1.17 g, 10.94 mmol) of 2,6-lutidene followed by 1.38 mL (1.59 g, 6.03 mmol) of TBSOTf. After stirring at -78° C. for 1.5 h, the reaction mixture was quenched with 50 mL sat. aq. NaHCO3 and warmed to room temperature. After extraction with 3×150 mL Et2O, the combined organics were washed with 1×200 mL sat. CuSO4, 1×200 mL brine, dried over MgSO4, filtered and evaporated to a cloudy white oil. Flash chromatography on silica gel, eluting with hexanes/EtOAc (8/1 to 4/1) gave 3.42 g (4.46 mmol, an 82% yield) of the title compound (Rf =0.31; 4/1 hexanes/EtOAc) as a gummy colorless solid; 1H NMR (300 MHz, CDCl3): δ-0.13-(-0.08) (m, 3H), 0.00-0.06 (m, 3H), 0.85-0.91 (m, 9H), 1.05 (d, J=6.7 Hz, 3H), 1.33 (t, J=7.1 Hz, 6H), 2.60-2.75 (m, 1H), 2.77-2.96 (m, 1H), 3.00-3.31 (m, 2H), 3.77-4.00 (m, 1H), 4.35 (q, J=7.1 Hz, 4H), 4.65-4.88 (m, 2H), 5.02-5.20 (m, 1H), 6.60-6.85 (m, 4H), 7.15-7.37 (m, 3H); MS (ES) m/z (relative intensity): 790 (M+ +Na, 100), 768 (M+ +H, 20).

reactant | (R,R)-5-{2-[[2-(3-chloro-phenyl)-2-hydroxy-ethyl]-(2,2,2-trichloro-ethoxycarbonyl)-amino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid diethyl ester | 5.47 mmol, 3.75 g | C(C)OC(=O)C1(OC2=C(O1)C=CC(=C2)C[C@@H](C)N(C(=O)OCC(Cl)(Cl)Cl)C[C@H](O)C2=CC(=CC=C2)Cl)C(=O)OCC | C27H29Cl4NO9
reactant | 2,6-lutidene | 10.94 mmol, 1.27 mL, 1.17 g | CC1=NC(=CC=C1)C | C7H9N
reactant | TBSOTf | 6.03 mmol, 1.38 mL, 1.59 g | [Si](C)(C)(C(C)(C)C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
product | 5-{(2R)-2-[[(2R)-2-(tert-Butyl-dimethyl-siloxy)-2-(3-chloro-phenyl)-ethyl]-(2,2,2-trichloro-ethoxycarbonyl)-amino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid diethyl ester | 82% yield | C(C)OC(=O)C1(OC2=C(O1)C=CC(=C2)C[C@@H](C)N(C(=O)OCC(Cl)(Cl)Cl)C[C@@H](C2=CC(=CC=C2)Cl)O[Si](C)(C)C(C)(C)C)C(=O)OCC | C33H43Cl4NO9Si
